US08981142B2
Various multistep processes to prepare phosphinothricin are known in the art. For example, some routes utilize phosphorus trichloride to produce a phosphinate precursor, which is subjected to hydroformylation-aminocarbonylation, followed by hydrolysis to produce phosphinothricin. In particular, one process for producing phosphinothricin generally comprises converting phosphorus trichloride to methylphosphonous dichloride or a derivative thereof. The methylphosphonous dichloride or derivative thereof is then reacted with methanol to form methyl methylphosphinate. Methyl methylphosphinate is then reacted with vinylic compounds (e.g., vinyl acetate) to form an intermediate (e.g., 2-(methoxy(methyl)phosphoryl)ethyl acetate). The resulting intermediate is pyrolyzed to prepare a vinylphosphinate precursor. The vinylphosphinate precursor is subjected to hydroformylation-aminocarbonylation, followed by hydrolysis of the hydroformylation-aminocarbonylation product in the presence of hydrochloric acid to produce phosphinothricin.

reactant | Methyl methylphosphinate | CP(OC)=O | C2H7O2P
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
product | 2-(methoxy(methyl)phosphoryl)ethyl acetate | C(C)(=O)OCCP(=O)(C)OC | C6H13O4P
